US07645789B2
To a solution of 2-tert-butyl-5-nitro-1H-indole-4-carbonitrile (550 mg, 2.3 mmol) in EtOAc (10 mL) was added Raney Ni (0.1 g) under a nitrogen atmosphere. The mixture was stirred under hydrogen atmosphere (1 atm) at room temperature for 1 h. The catalyst was filtered over Celite and the filtrate was evaporated in vacuo to afford 5-amino-2-tert-butyl-1H-indole-4-carbonitrile (250 mg, 51%). 1H NMR (DMSO, 300 MHz) δ 10.93 (br s, 1H), 7.25 (d, J=8.7 Hz, 1H), 6.49 (d, J=8.7 Hz, 1H), 5.94 (d, J=2.1 Hz, 1H), 5.40 (br s, 2H), 1.30 (s, 9H). MS (ESI) m/z: 214.0 [M+H+].

reactant | 2-tert-butyl-5-nitro-1H-indole-4-carbonitrile | 2.3 mmol, 550 mg | C(C)(C)(C)C=1NC=2C=CC(=C(C2C1)C#N)[N+](=O)[O-] | C13H13N3O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Ni | 0.1 g | [Ni] | Ni
product | 5-amino-2-tert-butyl-1H-indole-4-carbonitrile | 250 mg, 51% | NC1=C(C=2C=C(NC2C=C1)C(C)(C)C)C#N | C13H15N3
